US08735322B2
To a solution of 5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione (1.43 g, 7.22 mmol) in a mixed solvent system of chloroform (72 ml) and toluene (18 ml) is added N,N-dimethylaminopyridine (4.40 g, 36.08 mmol) and the solution is stirred at room temperature for 10 minutes. To this mixture is then added 4′-chloro-4-methylbiphenyl-3-yllead triacetate (described in WO 2008/071405) (4.95 g, 7.91 mmol) in one portion, followed by heating at 80° C. for 2 hours. After cooling to room temperature the solution is diluted with dichloromethane (90 ml) and quenched with 1M hydrochloric acid (90 ml). The resulting precipitate is filtered through celite and the residue washed with additional dichloromethane (20 ml). The biphasic solution is separated and the organic layer further washed with 1M hydrochloric acid (45 ml). Organics are finally passed through a phase separator then concentrated in vacuo to afford the crude product as a yellow oil. After flash column chromatography on silica (7:1 ethyl acetate/hexane eluant) 2-(4′-chloro-4-methylbiphenyl-3-yl)-5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione is afforded as a cream solid.

reactant | 5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione | 7.22 mmol, 1.43 g | O1C(OCC1)CC1CC(CC(C1)=O)=O | C10H14O4
reactant | chloroform | 72 ml | C(Cl)(Cl)Cl | CHCl3
reactant | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4′-chloro-4-methylbiphenyl-3-yllead triacetate | 7.91 mmol, 4.95 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)[Pb+3]
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 2-(4′-chloro-4-methylbiphenyl-3-yl)-5-[1,3]dioxolan-2-ylmethylcyclohexane-1,3-dione | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C1C(CC(CC1=O)CC1OCCO1)=O | C23H23ClO4
